US05241076
b) 7,8-Dimethyl-2,7-diazabicyclo[3.3.0]octane
10.8 g (46.9 mmol) of 2-benzyl-2,7-diazabicyclo[3.3.0]octane in 200 ml of ethanol are hydrogenated at 100° C. and 100 bar on 2.5 g of palladium-active carbon. The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | 2-benzyl-2,7-diazabicyclo[3.3.0]octane | 46.9 mmol, 10.8 g | C(C1=CC=CC=C1)N1C2CNCC2CC1 | C13H18N2
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium | 2.5 g | [Pd] | Pd
product | 7,8-Dimethyl-2,7-diazabicyclo[3.3.0]octane | CN1CC2CCNC2C1C | C8H16N2
